2200-12-31 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-12-31**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-31**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 93 (93 - 109) bpm
   BP: 98/66(73) {96/47(58) - 124/78(83)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,293 mL
                                                                  1,828 mL
   PO:
             TF:
   IVF:
                                                                    293 mL
                                                                  1,828 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                  1,560 mL
   Urine:
                                                                     60 mL
                                                                    860 mL
   NG:
   700 mL
   Stool:
   Drains:
   Balance:
                                                                  1,783 mL
                                                                    268 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   11.8 g/dL
   102 mg/dL
   0.6 mg/dL
   26 mEq/L
   5.3 mEq/L
   24 mg/dL
   113 mEq/L
   146 mEq/L
   37.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2200-12-30**]  10:40 PM
                             [**2200-12-31**]  12:32 AM
                             [**2200-12-31**]  03:44 AM
   WBC
   9.8
   8.9
   Hct
   36.6
   37.0
   Plt
   246
   253
   Cr
   0.6
   0.6
   Glucose
   93
   102
   Other labs: PT / PTT / INR:20.4/36.8/1.9, ALT / AST:1609/1219, Alk Phos
   / T Bili:112/3.6, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:0.9 mg/dL
   Assessment and Plan
 POISONING / OVERDOSE, ACETAMINOPHEN (TYLENOL, APAP)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-30**] 10:41 PM
   20 Gauge - [**2200-12-30**] 10:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-01-01 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2200-12-31**] 10:36 AM
 EEG - At [**2200-12-31**] 03:00 PM
 TRANSTHORACIC ECHO - At [**2200-12-31**] 03:36 PM
 interrupted without
   being finished
   [**1-1**]:
   - 2nd head CT at 1600 for decerebrate posturing, downward eye gaze:
   mild edema
   - rec'd Mannitol 50 mg IV x 1 at 1600
   - CVL and Aline placed [**2190**]. At that time no more posturing or eye
   deviations, normal withdrawal to painful stimuli
   - Hct 38->30 with copious black liquid stool, coffee ground NG. GI
   paged. 2100: NG lavage cleared in 500 cc. GI to see in AM.
   - 1 unit pRBC transfused
   - Received 1 L NS around 2100 with HR drop from 115-20 to 100s,
   received second L NS with HR drop to 80s.
   - Hct after 1 unit red cells, 2 L NS, unchanged at 30
   - Check AM crit
   - 24-hour EEG not placed, plan for tomorrow.
   - Myoclonic twitching at 2230. Got Ativan 1 mg IV, no chng. Discussed
   w/neuro resident [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**]: C/w encephalopathy. If new eye changes
   or dramatically new exam, consider Keppra (better than Benzo or
   Dilantin given liver failure) +/- head CT.
   - 2245: Skew gaze (R lower L), decerebrate posturing in response to
   pain and spontaneously. Head CT ordered: mild cerebral edema, no chng
   prior. Neuro resident recs: Mannitol, hyperventilate, Keppra load.
   - rec'd Mannitol 50 mg IV x 1 at midnight
   - 0400: Neuro exam improved: no more posturing, withdraws to pain.
   - 0630: Responsive, opens eyes to voice, turns head to look, etc
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-12-31**] 12:00 PM
   Lorazepam (Ativan) - [**2200-12-31**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-1-1**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 85 (79 - 126) bpm
   BP: 141/80(105) {134/77(104) - 169/95(123)} mmHg
   RR: 13 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (3 - 7)mmHg
   Total In:
                                                                  7,891 mL
                                                                  2,283 mL
   PO:
   TF:
   IVF:
                                                                  7,541 mL
                                                                  2,283 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,780 mL
                                                                  1,402 mL
   Urine:
                                                                  3,030 mL
                                                                  1,390 mL
   NG:
                                                                    750 mL
                                                                     12 mL
   Stool:
   Drains:
   Balance:
                                                                  4,111 mL
                                                                    881 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 655 (655 - 669) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 28
   PIP: 11 cmH2O
   Plateau: 11 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/29/158/20/-1
   Ve: 9.4 L/min
   PaO2 / FiO2: 527
   Physical Examination
   Neuro exam: Evolving overnight as described in overnight events.
   Reflexes preserved throughout.
   Gen: Intubated
   Lungs: CTA
   CV: s1 S2 no murmur
   Ab: soft ND.
   Labs / Radiology
   216 K/uL
   9.6 g/dL
   127 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   14 mg/dL
   115 mEq/L
   138 mEq/L
   31
   6.7 K/uL
        [image002.jpg]
                             [**2200-12-31**]  12:57 PM
                             [**2200-12-31**]  05:22 PM
                             [**2200-12-31**]  07:50 PM
                             [**2200-12-31**]  08:08 PM
                             [**2200-12-31**]  09:29 PM
                             [**2201-1-1**]  12:06 AM
                             [**2201-1-1**]  12:35 AM
                             [**2201-1-1**]  03:01 AM
                             [**2201-1-1**]  03:42 AM
                             [**2201-1-1**]  06:12 AM
   WBC
   7.6
   7.7
   6.0
   6.7
   Hct
   30.6
   30.3
   31
   30.0
   28.7
   31
   Plt
   259
   292
   199
   216
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   24
   22
   20
   20
   21
   Glucose
   128
   133
   134
   155
   136
   127
   Other labs: PT / PTT / INR:16.2/35.6/1.4, CK / CKMB /
   Troponin-T:75//<0.01, ALT / AST:885/350, Alk Phos / T Bili:86/3.0,
   Amylase / Lipase:/38, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   2 Tylenol levels of zero
   7.46/29/158
   1.3 lactate
   EEG: encephalopathic
   Assessment and Plan
   # Altered Mental Status: Very confusing picture. Patient decompensates
   into herniation-like physical exam, but three stat head CTs show mild
   edema, no change. Received Mannitol twice, and temporal association of
   improvement in neuro exam after in both cases. Nsurg unenthused about
   placing a bolt or further Mannitol. Of note patient takes unknown large
   amounts of Valium at b/l, while her Tylenol level is clearing and her
   liver function steadily improving.
   -          24-hour EEG
   -          Keppra loaded
   -          MRI of head
   -          Reassess with neurology, neurosurg input
   -          Holding Mannitol
   -          Osmoles pending if do choose to restart Mannitol
   # Hepatitis: Tylenol-induced most likely given Tylenol levels, labs.
   Has been treated with NAC infusion, NAC now d/c
   -          Trend PM LFTs
   -          F/u liver team recs
   # Intubation: Remains on vent for now [**12-23**] inability to protect airway.
   # Hematocrit drop & copious black liquid stools, black NG succus: C/w
   GIB. NG lavage negative yesterday negative. GI / liver team following.
   Transfused o/n.
   -          f/u GI recs
   -          pantoprazole drip
   -          T&S
   -          Noon hematocrit
   # Substance Abuse: Patient
s s/o denies EtOH use but endorses frequent
   benzodiazepine and PO narcotic use. Patient at risk for withdrawal from
   benzos, which will be difficult to detect given all the other reasons
   (cerebral edema, fulminant hepatitis, unknown coingestions) she may
   have changes in her vitals and neuro exam.
   -          Monitor for benzo withdrawal
   -          Thiamine, Folate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-30**] 10:41 PM
   20 Gauge - [**2200-12-30**] 10:41 PM
   Multi Lumen - [**2200-12-31**] 07:30 PM
   Arterial Line - [**2200-12-31**] 08:58 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: On PPI drip (for GIB)
   VAP:  HOB elevated
   Comments:
   Communication:  Comments: In touch with s/o
   Code status: Full
   Disposition: ICU

2201-01-02 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2201-1-1**] 11:00 AM
 EEG - At [**2201-1-1**] 02:56 PM
   24 hour leads placed
 ARTERIAL LINE - STOP [**2201-1-1**] 08:26 PM
   - Acetylcysteine d/c'd initially for 2 negative Tylenol levels but
   liver requests it stay on for 5 days, restarted
   -liver recs- continue NAC, follow INR, consider lactulose, trend lfts,
   consider transfusion, trend hct (they think GI bleed is likely
   gastritis)
   -24 hr EEG started
   -transplant recs- pt not a candidate for transplant due to poor social
   support and LFTs improving, they signed off
   -tox recs- continue NAC IV, f/u EEG and MRI
   -neuro recs-feels this is hepatic encephalopathy. Started lactulose
   -MRI/MRA: 1. Subtle T2 hyperintensity and mild diffusion restriction in
   the bilateral basal ganglia and central thalami. Diffuse mild cortical
   edema. These findings are suggestive of metabolic encephalopathy. 2.
   Intact intracranial circulation, with possible infundibulum at the
   origin of the right PComm.
   -Received call from [**First Name8 (NamePattern2) 11486**] [**Last Name (NamePattern1) 659**], patient's brother and apparently the
   only family member who is in touch with her. He and his wife are both
   [**Name (NI) 11499**], and will come to visit tomorrow.  He does not know of any
   designated HCP's, but says the other siblings and the patient's sons
   would not be interested in being involved in her care. Apparently the
   patient overdosed 2 years ago shortly after her husband died, and was
   admitted to [**Hospital3 **] in [**Location (un) 1130**]. [**Doctor Last Name 11500**] contact info:
   [**Name2 (NI) 154**] # [**Telephone/Fax (1) 11487**]
   Cell # [**Telephone/Fax (1) 11501**]
   -[**Hospital6 **] medical records: [**Telephone/Fax (1) 11502**] (no one available
   overnight)
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-1-2**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 92 (86 - 98) bpm
   BP: 147/83(97) {135/62(82) - 150/87(100)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  4,320 mL
                                                                    550 mL
   PO:
   TF:
   IVF:
                                                                  4,270 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  3,642 mL
                                                                  1,242 mL
   Urine:
                                                                  3,620 mL
                                                                    940 mL
   NG:
                                                                     22 mL
                                                                      2 mL
   Stool:
   Drains:
   Balance:
                                                                    678 mL
                                                                   -692 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 634 (480 - 1,247) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.49/32/153/25/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 510
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   140 K/uL
   9.0 g/dL
   111 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   9 mg/dL
   112 mEq/L
   142 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                             [**2200-12-31**]  09:29 PM
                             [**2201-1-1**]  12:06 AM
                             [**2201-1-1**]  12:35 AM
                             [**2201-1-1**]  03:01 AM
                             [**2201-1-1**]  03:42 AM
                             [**2201-1-1**]  06:12 AM
                             [**2201-1-1**]  02:58 PM
                             [**2201-1-1**]  04:45 PM
                             [**2201-1-1**]  09:00 PM
                             [**2201-1-2**]  03:08 AM
   WBC
   6.0
   6.7
   5.0
   4.6
   4.9
   Hct
   30.0
   28.7
   31
   27.7
   28.4
   27.0
   Plt
   199
   216
   172
   151
   140
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   22
   20
   20
   21
   25
   Glucose
   155
   136
   127
   127
   111
   Other labs: PT / PTT / INR:15.0/33.3/1.3, CK / CKMB /
   Troponin-T:75//<0.01, ALT / AST:621/166, Alk Phos / T Bili:102/2.8,
   Amylase / Lipase:/38, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: [**1-1**] MRI: 1. Subtle T2 hyperintensity and mild diffusion
   restriction in the bilateral basal ganglia and central thalami. Diffuse
   mild cortical edema. These findings are suggestive of metabolic
   encephalopathy. 2. Intact intracranial circulation, with possible
   infundibulum at the origin of the right PComm.
   Microbiology: HCV VL: Pending
   Toxoplasma IgG: Pending
   CMV IgG/IgM: Pending
   VZV IgG: Pending
   Rubella serology: Immune
   EBV IgG: Postive; IgM: Negative
   RPR: Non-reactive
   UCx: > 100,000 colonies E. Coli (sensitivities pending)
   Assessment and Plan
   48F with acetaminophen overdose and persistent altered mental status,
   now clearing slowly
   # Altered Mental Status: Very confusing picture. Patient decompensates
   into herniation-like physical exam, but three stat head CTs show mild
   edema, no change. Received Mannitol twice, and temporal association of
   improvement in neuro exam after in both cases. Nsurg unenthused about
   placing a bolt or further Mannitol. Of note patient takes unknown large
   amounts of Valium at b/l, while her Tylenol level is clearing and her
   liver function steadily improving.
   -          24-hour EEG
   -          Keppra loaded
   -          MRI of head
   -          Reassess with neurology, neurosurg input
   -          Holding Mannitol
   -          Osmoles pending if do choose to restart Mannitol
   # Acetaminophen overdose:
   # Hepatitis: Tylenol-induced most likely given Tylenol levels, labs.
   Has been treated with NAC infusion, NAC now d/c
   -          Trend PM LFTs
   -          F/u liver team recs
   # Intubation: Remains on vent for now [**12-23**] inability to protect airway.
   # Hematocrit drop & copious black liquid stools, black NG succus: C/w
   GIB. NG lavage negative yesterday negative. GI / liver team following.
   Transfused o/n.
   -          f/u GI recs
   -          pantoprazole drip
   -          T&S
   -          Noon hematocrit
   # UTI: Presumptive identification of E. Coli on UCx
   # Substance Abuse: Patient
s s/o denies EtOH use but endorses frequent
   benzodiazepine and PO narcotic use. Patient at risk for withdrawal from
   benzos, which will be difficult to detect given all the other reasons
   (cerebral edema, fulminant hepatitis, unknown coingestions) she may
   have changes in her vitals and neuro exam.
   -          Monitor for benzo withdrawal
   -          Thiamine, Folate
   # Hypophosphatemia:
   FEN: NPO except meds; consider speech & swallow trial post-extubation
   PPx: PBoots, pantoprazole
   Access: Left subclavian; PIV x2
   Communication: [**Name (NI) 1111**] [**Name (NI) **] (boyfriend and caretaker past 2 years)
   [**0-0-**] he is HCP.  Brother [**Name (NI) 11486**] [**Name (NI) 659**]: Home # [**Telephone/Fax (1) 11487**];
   Cell # [**Telephone/Fax (1) 11501**]. [**Hospital6 **] medical records: [**Telephone/Fax (1) 11502**]
   Code: Presumed full
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-30**] 10:41 PM
   20 Gauge - [**2200-12-30**] 10:41 PM
   Multi Lumen - [**2200-12-31**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-01-03 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated 11 am [**1-2**]
   - Vastly improved mental status
   - Psych: 1:1 sitter, cannot leave AMA, agitating to go home
   - Brother [**Name (NI) 11486**] [**Name (NI) 659**], [**Name8 (MD) **] RN, saw pt and as next of [**Doctor First Name 23**] agreeable to
   being HCP
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2201-1-2**] 12:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-1-2**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-1-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 88 (73 - 97) bpm
   BP: 128/79(91) {112/62(76) - 143/86(98)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,976 mL
                                                                    538 mL
   PO:
             TF:
   IVF:
                                                                  1,746 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  3,992 mL
                                                                    590 mL
   Urine:
                                                                  3,290 mL
                                                                    590 mL
   NG:
                                                                      2 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -2,016 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 538 (538 - 538) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 21%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 9.5 L/min
   Physical Examination
   Gen: NAD, wants to go home.
   Neuro: AOx3 (date place name), moving all 4, tracking well with eyes,
   PERRLA
   HEENT: NGT in place
   CV: s1 s2
   Lungs: CTA
   Ext: No edema, restraints
   Labs / Radiology
   105 K/uL
   8.2 g/dL
   89 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   111 mEq/L
   142 mEq/L
   24.7 %
   5.3 K/uL
        [image002.jpg]
   LFTs trending down
   CXR: no change
                             [**2201-1-1**]  12:06 AM
                             [**2201-1-1**]  12:35 AM
                             [**2201-1-1**]  03:01 AM
                             [**2201-1-1**]  03:42 AM
                             [**2201-1-1**]  06:12 AM
                             [**2201-1-1**]  02:58 PM
                             [**2201-1-1**]  04:45 PM
                             [**2201-1-1**]  09:00 PM
                             [**2201-1-2**]  03:08 AM
                             [**2201-1-3**]  04:04 AM
   WBC
   6.0
   6.7
   5.0
   4.6
   4.9
   5.3
   Hct
   30.0
   28.7
   31
   27.7
   28.4
   27.0
   24.7
   Plt
   199
   216
   172
   151
   140
   105
   Cr
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   20
   20
   21
   25
   Glucose
   155
   136
   127
   127
   111
   89
   Other labs: PT / PTT / INR:15.3/33.3/1.3, CK / CKMB /
   Troponin-T:75//<0.01, ALT / AST:394/85, Alk Phos / T Bili:114/1.5,
   Amylase / Lipase:/38, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   48F s/p Acetaminophen o.d., possibly via a Percocet o.d., with improved
   mental status
   # Altered MS: Vastly improved, likely a hepatic encephalopathy now
   clearing with Lactulose and supportive treatment. Neuro following.
   - f/u 24-hour EEG
   - continue lactulose
   - prophylactic Keppra
   # Acetaminophen overdose: LFTs are improving, liver recommends NAC
   continue for now.
   - continue NAC
   # Polysubstance abuse: We have very limited history but seems patient
   takes large amounts of benzos at baseline.
   - watch for benzo withdrawal signs
   - thiamine, folate
   # Psychiatric: Patient has very poor insight into her situation, denies
   SI states this was accidental, but difficult to say if she is being
   honest about that.
   - Section 12
   - 1:1 sitter
   # UTI: Pan-sensitive E Coli per cx.
   - D/c Ceftriaxone
   - Start Macrobid
   # Melanotic stools:
   GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DEPRESSION
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 LIVER FUNCTION ABNORMALITIES
 POISONING / OVERDOSE, ACETAMINOPHEN (TYLENOL, APAP)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-30**] 10:41 PM
   20 Gauge - [**2200-12-30**] 10:41 PM
   Multi Lumen - [**2200-12-31**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-01-03 12:51:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: tylenol overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2201-1-2**] 11:51 AM
 Mental status sig improved
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2201-1-3**] 11:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-1-3**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-1-3**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 86 (73 - 97) bpm
   BP: 126/75(87) {112/62(76) - 143/84(121)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,976 mL
                                                                    975 mL
   PO:
             TF:
   IVF:
                                                                  1,746 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  3,992 mL
                                                                  1,055 mL
   Urine:
                                                                  3,290 mL
                                                                  1,055 mL
   NG:
                                                                      2 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -2,016 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   105 K/uL
   89 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   111 mEq/L
   142 mEq/L
   24.7 %
   5.3 K/uL
        [image002.jpg]
                             [**2201-1-1**]  12:06 AM
                             [**2201-1-1**]  12:35 AM
                             [**2201-1-1**]  03:01 AM
                             [**2201-1-1**]  03:42 AM
                             [**2201-1-1**]  06:12 AM
                             [**2201-1-1**]  02:58 PM
                             [**2201-1-1**]  04:45 PM
                             [**2201-1-1**]  09:00 PM
                             [**2201-1-2**]  03:08 AM
                             [**2201-1-3**]  04:04 AM
   WBC
   6.0
   6.7
   5.0
   4.6
   4.9
   5.3
   Hct
   30.0
   28.7
   31
   27.7
   28.4
   27.0
   24.7
   Plt
   199
   216
   172
   151
   140
   105
   Cr
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   20
   20
   21
   25
   Glucose
   155
   136
   127
   127
   111
   89
   Other labs: PT / PTT / INR:15.3/33.3/1.3, CK / CKMB /
   Troponin-T:75//<0.01, ALT / AST:394/85, Alk Phos / T Bili:114/1.5,
   Amylase / Lipase:/38, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 Tylenol overdose
   -cont NAC
   -tox following pt
   -pt now denying suicide attempt
   -h/o previous suicide attempt with acetaminophen
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   -successfully extubated
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   -received 1u pRBC several days ago
   -hct down couple of points today, repeat hct evening
 UTI
   -E. coli
   -CTX
 Polysubstance abuse
   -psych consulted
 DEPRESSION
   Remainder of plan per resident
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-12-30**] 10:41 PM
   Multi Lumen - [**2200-12-31**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: